US06271225B1
In the same manner as in Starting Material Synthesis Example 4 and using ethyl 2-aminobenzo[b]thiophene-3-carboxylate, 2,4,5-trifluoronitrobenzene and dimethyl sulfoxide, ethyl 2-(4,5-difluoro-2-nitroanilino)benzo[b]thiophene-3-carboxylate is obtained.

reactant | ethyl 2-aminobenzo[b]thiophene-3-carboxylate | NC1=C(C2=C(S1)C=CC=C2)C(=O)OCC | C11H11NO2S
reactant | 2,4,5-trifluoronitrobenzene | FC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | ethyl 2-(4,5-difluoro-2-nitroanilino)benzo[b]thiophene-3-carboxylate | FC1=CC(=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C1F)[N+](=O)[O-] | C17H12F2N2O4S
